US09284323B2
A solution of 2-bromo-3,6-dimethylnaphthalen-1-ol (31.9 g, 127 mmol) in EtOH (1.3 L) was treated with Et3N (26.6 mL, 191 mmol) at room temperature. Pd/C (13.5 g, 12.7 mmol, 10% wt on C) was added in one portion and the atmosphere replaced with H2. The reaction was left under balloon pressure of H2 for 6 hours. After replacing the atmosphere with air, Celite (20 g) was added and the slurry stirred for 15 minutes before filtering the solution through a pad of Celite. The volatiles were removed in vacuo, and the residue was taken up in EtOAc/water (250 mL each). The organics were washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The resulting residue was purified on Isco silica gel column chromatography (0-35% EtOAc/hex) to afford 3,6-dimethylnaphthalen-1-ol. LCMS-ESI+ (m/z): [M+H]+ calcd for C12H13O: 173.1. found: 173.4.

reactant | 2-bromo-3,6-dimethylnaphthalen-1-ol | 127 mmol, 31.9 g | BrC1=C(C2=CC=C(C=C2C=C1C)C)O | C12H11BrO
reactant | Et3N | 191 mmol, 26.6 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 1.3 L | CCO | C2H6O
catalyst | Pd/C | 12.7 mmol, 13.5 g | [Pd] | Pd
product | 3,6-dimethylnaphthalen-1-ol | CC=1C=C(C2=CC=C(C=C2C1)C)O | C12H12O
